* NGSPICE file created from comparator.ext - technology: sky130A

.subckt sky130_fd_pr__nfet_g5v0d10v5_MJGQJ3 a_n242_n622# a_50_n400# a_n108_n400# a_n50_n488#
X0 a_50_n400# a_n50_n488# a_n108_n400# a_n242_n622# sky130_fd_pr__nfet_g5v0d10v5 ad=1.16 pd=8.58 as=1.16 ps=8.58 w=4 l=0.5
.ends

.subckt sky130_fd_pr__pfet_g5v0d10v5_KL3SY6 a_n50_n497# a_50_n400# w_n308_n697# a_n108_n400#
X0 a_50_n400# a_n50_n497# a_n108_n400# w_n308_n697# sky130_fd_pr__pfet_g5v0d10v5 ad=1.16 pd=8.58 as=1.16 ps=8.58 w=4 l=0.5
.ends

.subckt sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8 a_50_n200# a_n242_n422# a_n108_n200# a_n50_n288#
X0 a_50_n200# a_n50_n288# a_n108_n200# a_n242_n422# sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
.ends

.subckt sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N a_50_n100# a_n242_n322# a_n108_n100# a_n50_n188#
X0 a_50_n100# a_n50_n188# a_n108_n100# a_n242_n322# sky130_fd_pr__nfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.5
.ends

.subckt sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6 a_n50_n297# a_50_n200# w_n308_n497# a_n108_n200#
X0 a_50_n200# a_n50_n297# a_n108_n200# w_n308_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
.ends

.subckt sky130_fd_pr__nfet_g5v0d10v5_YNEQJ5 a_50_n800# a_n108_n800# a_n50_n888# a_n242_n1022#
X0 a_50_n800# a_n50_n888# a_n108_n800# a_n242_n1022# sky130_fd_pr__nfet_g5v0d10v5 ad=2.32 pd=16.6 as=2.32 ps=16.6 w=8 l=0.5
.ends

.subckt comparator inp inn clk comp_p avdd avss
Xx1 avss m1_2656_4157# m1_2498_4157# inp sky130_fd_pr__nfet_g5v0d10v5_MJGQJ3
Xx3 m1_2577_7476# m1_2656_4157# avdd m1_1856_9366# sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xx2 avss m1_2577_7476# m1_2498_4157# inn sky130_fd_pr__nfet_g5v0d10v5_MJGQJ3
Xx4 m1_2656_4157# m1_2577_7476# avdd m1_7298_6966# sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xx5 clk m1_1856_9366# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xx6 clk m1_7298_6966# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xxpb m1_14256_3957# comp_p avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xxnb comp_p avss avss m1_14256_3957# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xxpq m1_2656_4157# m1_14256_3957# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xxinvn m1_4577_9476# avss avss clk sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xxinvp clk m1_4577_9476# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xxnq m1_14256_3957# avss avss m1_2656_4157# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xxtail m1_2498_4157# avss clk avss sky130_fd_pr__nfet_g5v0d10v5_YNEQJ5
Xxr1 m1_4577_9476# m1_2656_4157# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xxr2 m1_4577_9476# m1_2577_7476# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
.ends

